US20010006969A1
7-Methylthieno[3,2-d]pyrimidine-2,4 (1H,3H)-dione
To 25.0 g (146 mmol) of methyl 3-amino-4-methylthiophene-2-carboxylate was added 43.5 g (730 mmol) of urea, and the resulting mixture was heated at 200° C. for 1.5 hours. The mixture was allowed to resume room temperature, and DMF (400 ml) was added thereto, followed by heating under reflux for one hour. After completion of the reaction, ice water was added to the reaction mixture, and crystals thus precipitated were filtered to give 23.0 g (yield: 93.7%) of the title compound.

reactant | methyl 3-amino-4-methylthiophene-2-carboxylate | 146 mmol, 25.0 g | NC1=C(SC=C1C)C(=O)OC | C7H9NO2S
reactant | urea | 730 mmol, 43.5 g | NC(=O)N | CH4N2O
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | 7-Methylthieno[3,2-d]pyrimidine-2,4 (1H,3H)-dione | 23.0 g, yield: 93.7% | CC1=CSC2=C1NC(NC2=O)=O | C7H6N2O2S
